Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide / lorazepam / buspirone / Stalevo 50 / 
Azilect
 
Attending: ___.
 
Chief Complaint:
Chest pain. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
CHIEF COMPLAINT: Chest Pain 
 
HISTORY OF PRESENTING ILLNESS: Ms. ___ ___ y.o. woman with 
HTN, HL, CVA, ___ disease, PAfib on Apixiban, and SSS 
s/p dual chamber ___ pacemaker at ___ in ___ presents 
with chest pain. Patient woke up at 3:30 AM with substernal 
chest pain that was nonradiating and non-exertional and 
associated with palpitations. She denied any associated nausea, 
vomiting, lightheadedness, ___ edema. She presented to BID 
___ where serial EKGs were negative for ischemic changes and 
trop 0.012. 

At OSH, she received ASA and 2 SL nitro with relief of ___ chest 
pain. CXR at OSH unchanged from previous. Patient also received 
Lovenox prior to arrival. She was also found to have UA that was 
nitrite positive. She received CTX prior to transfer. Given 
elevated trop patient transferred to ___ for possible cardiac 
intervention. 

In the ED, initial vitals were T=97.9 BP=183/67 HR=61 RR=14 
O2Sat=95%. Patient denied any chest pain, dyspnea, 
lightheadedness, or palpitations. She endorsed suprapubic 
discomfort, but denied any dysuria, fevers, chills, nausea, or 
vomiting. Repeat EKG without ischemic changes, troponins 
negative x2. 

Upon arrival to the floor, vitals were T=97.9 BP=107/40 HR=60 
RR=14 O2Sat=95%. Patient reported that ___ chest pain has 
completely resolved since the initial episode with no recurrent 
palpitations. She denies difficulty breathing at any time. 
Patient denies history of GERD. Also denies recent n/v/f/c. Of 
note, the patient describes a ___ year history of brief chest 
pain episodes that last for seconds to minutes during exertion 
or rest (no discernible pattern) and resolve without treatment. 

Patient also has a history of recurrent UTIs that have been 
treated with nitrofurantoin in the past. She denied pain with 
urination, but endorsed urinary frequency. 

ROS: PER HPI
 
Past Medical History:
1. CARDIAC RISK FACTORS: CVD  
2. CARDIAC HISTORY: pAfib on Apixiban, and SSS s/p dual chamber 
pacemaker at ___ in ___ 
3. OTHER PAST MEDICAL HISTORY:  
-___ Disease
-CVA
-HTN
-HLD
-Paroxysmal Atrial Fibrillation
-Sinus node dysfunction/Sick Sinus Syndrome 
-Dual chamber SJM pacemaker implanted at ___ on ___ 
-Recurrent UTIs
 
Social History:
___
Family History:
Mother died of MI at the age of ___. Father died of stroke at ___, 
had HTN. Brother with renal failure, HTN, platelet disorder. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T=97.9 BP=107/40 HR=60 RR=14 O2Sat=95%
GENERAL: Elderly woman in NAD. Oriented x3. Mood, affect 
appropriate. Slow to respond to questions. 
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. 
NECK: Supple with flat JVP.
CARDIAC: Regular rhythm. Normal rate. II/VI systolic murmur at 
LUSB and at apex
LUNGS: CTAB. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: Warm extremities with distal pulses intact. No 
c/c/e.
NEURO: Slow to move and answer questions. Mild rigidity. 

DISCHARGE PHYSICAL EXAM: 
VS: T98.3 100s-140s/40s-50s ___ 94-98RA
GENERAL: Elderly woman in NAD. Oriented x3. Mood, affect 
appropriate. Slow to respond to questions. 
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. 
NECK: Supple with flat JVP.
CARDIAC: Regular rhythm. Normal rate. II/VI systolic murmur at 
LUSB and at apex
LUNGS: CTAB. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: Warm extremities with distal pulses intact. No 
c/c/e.
NEURO: Slow to move and answer questions. Mild rigidity
 
Pertinent Results:
ON ADMISSION:
___ 03:48PM   cTropnT-<0.01
___ 11:30AM URINE  HOURS-RANDOM
___ 11:30AM URINE  UHOLD-HOLD
___ 11:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:30AM URINE  BLOOD-NEG NITRITE-POS PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD
___ 11:30AM URINE  RBC-1 WBC-9* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 10:15AM   GLUCOSE-86 UREA N-23* CREAT-0.7 SODIUM-141 
POTASSIUM-5.1 CHLORIDE-106 TOTAL CO2-28 ANION GAP-12
___ 10:15AM   estGFR-Using this
___ 10:15AM   cTropnT-<0.01
___ 10:15AM   WBC-5.5 RBC-3.64* HGB-10.5* HCT-32.9* MCV-90 
MCH-28.8 MCHC-31.9* RDW-14.3 RDWSD-47.4*
___ 10:15AM   NEUTS-55.8 ___ MONOS-11.3 EOS-2.4 
BASOS-0.7 IM ___ AbsNeut-3.06 AbsLymp-1.61 AbsMono-0.62 
AbsEos-0.13 AbsBaso-0.04
___ 10:15AM   PLT COUNT-208

ON DISCHARGE:
___ 06:25AM BLOOD WBC-6.3 RBC-3.54* Hgb-10.1* Hct-32.1* 
MCV-91 MCH-28.5 MCHC-31.5* RDW-14.6 RDWSD-48.4* Plt ___
___ 06:25AM BLOOD ___ PTT-33.6 ___
___ 06:25AM BLOOD Glucose-81 UreaN-24* Creat-0.6 Na-138 
K-4.6 Cl-103 HCO3-26 AnGap-14
___ 06:25AM BLOOD CK-MB-2 cTropnT-0.01

MICROBIOLOGY:
UA: Positive nitrites, few bacteria, moderate leuk esterase, 9 
WBC
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
Urine culture from ___ preliminary read: gram negative 
bacilli

 
Brief Hospital Course:
The patient presented to ___ with non-exertional chest 
pain and palpitations that woke ___ from sleep at 3:30 on 
___. In the ED, serial EKGs were negative for ischemic 
changes and troponins were mildly elevated to 0.012. She 
received ASA and 2 SL nitroglycerin out of concern for NSTEMI. 
She also received Lovenox. ___ UA returned nitrite positive and 
she was given one dose of ceftriaxone. Given elevated troponin 
level, she was transferred to ___ for potential cardiac 
intervention.

At ___, the patient remained afebrile with well-controlled 
blood pressure, normal heart rate, and sinus rhythm. She was 
kept on ___ home medication regimen of metoprolol 25mg BID, 
Diltiazem 15mg TID, and Digoxin 0.125mg every other day. For 
anticoagulation, she was continued Apixiban 2.5mg BID. After ___ 
transfer, troponin neg x2 and stable EKG lowered suspicion of 
ACS and thus aspirin and high dose statin were not initiated 
during this hospitalization.

___ was interrogated and revealed normal 
functioning pacemakers without any high rate episodes or AF 
recorded. 

TRANSITIONAL ISSUES: 
- Patient's urine culture from ___ grew gram neg bacilli. 
She was given ceftriaxone 1g IV x1 during admission. She is 
going home on 2 more doses of ciprofloxacin to complete 3-day 
course. Please follow-up on final urine culture with 
sensitivities if symptoms not resolved.
- Patient's Hgb low at 10.5, which is stable from recent prior 
labs. Please continue to monitor
- Code status: Full
- Contact: Husband ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Metoprolol Succinate XL 25 mg PO BID 
3. Ropinirole 0.25 mg PO QPM 
4. Carbidopa-Levodopa CR (50-200) 1 TAB PO QPM 
5. Ranitidine 150 mg PO QAM 
6. Diltiazem 15 mg PO TID 
7. Digoxin 0.125 mg PO EVERY OTHER DAY 
8. Apixaban 2.5 mg PO BID 
9. Carbidopa-Levodopa (___) 1 TAB PO Q8AM 
10. Vitamin B Complex 1 CAP PO DAILY 
11. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
12. Denosumab (Prolia) 60 mg SC 2/YEAR 
___. Carbidopa-Levodopa (___) 1 TAB PO TID 
14. Polyethylene Glycol 17 g PO DAILY 
15. Acetaminophen 650 mg PO Q8H:PRN back pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN back pain 
2. Apixaban 2.5 mg PO BID 
3. Carbidopa-Levodopa (___) 1 TAB PO TID 
4. Carbidopa-Levodopa (___) 1 TAB PO Q8AM 
5. Carbidopa-Levodopa CR (50-200) 1 TAB PO QPM 
6. Digoxin 0.125 mg PO EVERY OTHER DAY 
7. Diltiazem 15 mg PO TID 
8. Metoprolol Succinate XL 25 mg PO BID 
9. Polyethylene Glycol 17 g PO DAILY 
10. Ranitidine 150 mg PO QAM 
11. Ropinirole 0.25 mg PO QPM 
12. Vitamin B Complex 1 CAP PO DAILY 
13. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
14. Denosumab (Prolia) 60 mg SC 2/YEAR 
___. Atorvastatin 10 mg PO QPM 
16. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*4 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Chest pain of unknown etiology  

SECONDARY: ___ Disease, Hypertension, Hyperlipidemia, 
Paroxysmal Atrial Fibrillation, Sick Sinus Syndrome, Sinus node 
dysfunction, Dual chamber SJM pacemaker  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory 

 
Discharge Instructions:
Dear Ms. ___, 

You went to the Emergency Department at ___ because you 
experienced chest pain that woke you from your sleep and were 
transferred to ___ out of concern for a problem with your 
heart. Your electrocardiogram and blood testing at ___ 
affirmed that you did not have a heart attack. Your pacemaker 
was tested and is functioning well without any abnormal heart 
rhythms. 

You were also found to have a urinary tract infection in the ED, 
which was treated with ceftriaxone. You will need two more days 
of antibiotics, which has been prescribed. 

Please follow up with your ___ Cardiologist at your standing 
appointment next week. Please also schedule an appointment with 
your PCP ___ ___ weeks. 

Thank you for for the opportunity to participate in your care. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___